US06815447B2
2-(4-Cyclohexylphenyl)-4,6-quinolinediamine
N-[4-Amino-2-(4-cyclohexylphenyl)-quinolin-6-yl]-acetamide (22 g) was placed in a 1 L flask to which 500 mL of 6 N HCl was added and the mixture heated with stirring to 95° C. for 18 hrs. After this time, the solution was cooled in ice and was then cautiously neutralized with concentrated NaOH solution, followed by adjustment to pH 9.5. The solution was then poured into a 2 L separatory funnel and extracted with ethyl acetate. The organic layer was then dried over Na2SO4, filtered and concentrated to give 17 g of the desired product. Repeated crystallization using methanol, methylene chloride and hexane provided 9.0 g (41%) of the pure title compound.

reactant | N-[4-Amino-2-(4-cyclohexylphenyl)-quinolin-6-yl]-acetamide | 22 g | NC1=CC(=NC2=CC=C(C=C12)NC(C)=O)C1=CC=C(C=C1)C1CCCCC1 | C23H25N3O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6 N, 500 mL | Cl | ClH
product | 2-(4-Cyclohexylphenyl)-4,6-quinolinediamine | 17 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)N)N | C21H23N3
